### PR TITLE
Add Erdős Problem 834 (3-critical 3-uniform hypergraphs of minimum degree 7), link the formal proof

### LINKED ISSUE #966: Erdős Problem 834
### What is the conjecture

https://www.erdosproblems.com/834

  Does there exist a $3$-critical $3$-uniform hypergraph in which every vertex has degree $\geq 7$?

Status:  verifiable

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #966.

### What changed
- `FormalConjecturesForMathlib/Combinatorics/Hypergraph/ThreeUniform.lean`: adds `deleteEdge`, `deleteVertex`, `degree` (as `ℕ∞`, via `encard`) and `IsTransversal` for `ThreeUniformHypergraph`.
- `FormalConjectures/ErdosProblems/834.lean` with the two notions of `3`-criticality discussed on the problem page (`IsChromaticThreeCritical`: chromatic number `3`, two-colourable after deleting any edge or vertex; `IsTransversalThreeCritical`: transversal number `3`, dropping to `≤ 2` after deleting any edge) and:
  - `erdos_834` (`research solved`, `answer(True)`): a chromatically `3`-critical `3`-uniform hypergraph with all degrees `≥ 7` exists (Li [Li25]).
  - `erdos_834.variants.transversal` (`answer(False)`): no transversally `3`-critical `3`-uniform hypergraph has all degrees `≥ 7` (Li [Li25]).
  - `erdos_834.variants.nine_vertices`: Li's example lives on `Fin 9`.

  All three are linked to plby/lean-proofs `Erdos834.erdos_834` (Codex and GPT-5.6 Sol; single Mathlib-only file), which proves both parts.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos834.erdos_834` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the three new statements on top of a renamed copy, same axioms (plby works with `Finset (Finset α)` hypergraphs and Bool-valued predicates; the bridge passes through `ThreeUniformHypergraph.ofFinset`):

<details>
<summary>Bridge</summary>

```lean
open ThreeUniformHypergraph

namespace Bridge834

variable {V : Type}

lemma ext' {H₁ H₂ : ThreeUniformHypergraph V} (h : H₁.edges = H₂.edges) : H₁ = H₂ := by
  cases H₁; cases H₂; congr

variable [DecidableEq V]

lemma isThreeUniform_of_isUniform {H : Finset (Finset V)} (h : Erdos834Plby.IsUniform H 3) :
    Finset.IsThreeUniform H := (Erdos834Plby.isUniform_iff H 3).1 h

lemma properColoring_iff (H : Finset (Finset V)) (hH : Finset.IsThreeUniform H) {κ : Type}
    [DecidableEq κ] (c : V → κ) :
    (ofFinset H hH).IsProperColoring c ↔ Erdos834Plby.ProperColoring H c := by
  rw [Erdos834Plby.properColoring_iff]; rfl

lemma isTwoColorable_iff [Fintype V] (H : Finset (Finset V)) (hH : Finset.IsThreeUniform H) :
    (ofFinset H hH).IsTwoColorable ↔ Erdos834Plby.Colorable H 2 := by
  rw [Erdos834Plby.colorable_iff]
  simp only [IsTwoColorable, properColoring_iff]

lemma deleteEdge_ofFinset (H : Finset (Finset V)) (hH : Finset.IsThreeUniform H) (e : Finset V) :
    (ofFinset H hH).deleteEdge e =
      ofFinset (H.erase e) (fun f hf => hH f (Finset.mem_of_mem_erase hf)) := by
  refine ext' ?_
  ext f
  simp [deleteEdge, ofFinset]

lemma deleteVertex_ofFinset (H : Finset (Finset V)) (hH : Finset.IsThreeUniform H) (v : V) :
    (ofFinset H hH).deleteVertex v =
      ofFinset (Erdos834Plby.deleteVertex H v) (fun f hf => hH f (Finset.mem_of_mem_filter f hf)) := by
  refine ext' ?_
  ext f
  simp [deleteVertex, ofFinset, Erdos834Plby.deleteVertex]

lemma degree_ofFinset (H : Finset (Finset V)) (hH : Finset.IsThreeUniform H) (v : V) :
    (ofFinset H hH).degree v = Erdos834Plby.degree H v := by
  have : {e ∈ (ofFinset H hH).edges | v ∈ e} = ↑(H.filter (v ∈ ·)) := by
    ext f; simp [ofFinset]
  rw [degree, this, Set.encard_coe_eq_coe_finsetCard]
  rfl

lemma isTransversal_iff (H : Finset (Finset V)) (hH : Finset.IsThreeUniform H) (T : Finset V) :
    (ofFinset H hH).IsTransversal T ↔ Erdos834Plby.Hits H T := by
  rw [Erdos834Plby.hits_iff]; rfl

lemma isChromaticThreeCritical_of (H : Finset (Finset V)) [Fintype V]
    (hH : Finset.IsThreeUniform H) (h : Erdos834Plby.ChromaticThreeCritical H) :
    Erdos834.IsChromaticThreeCritical (ofFinset H hH) := by
  rw [Erdos834Plby.chromaticThreeCritical_iff] at h
  obtain ⟨h3, h2, he, hv⟩ := h
  refine ⟨?_, ?_, fun e he' => ?_, fun v => ?_⟩
  · obtain ⟨c, hc⟩ := (Erdos834Plby.colorable_iff H 3).1 h3
    exact ⟨c, (properColoring_iff H hH c).2 hc⟩
  · exact fun h => h2 ((isTwoColorable_iff H hH).1 h)
  · rw [deleteEdge_ofFinset]
    exact (isTwoColorable_iff _ _).2 (he e he')
  · rw [deleteVertex_ofFinset]
    exact (isTwoColorable_iff _ _).2 (hv v)

lemma isTransversalThreeCritical_iff (H : Finset (Finset V)) [Fintype V]
    (hH : Finset.IsThreeUniform H) :
    Erdos834.IsTransversalThreeCritical (ofFinset H hH) ↔ Erdos834Plby.TransversalThreeCritical H := by
  rw [Erdos834Plby.transversalThreeCritical_iff]
  simp only [Erdos834.IsTransversalThreeCritical, isTransversal_iff, deleteEdge_ofFinset]
  constructor
  · rintro ⟨h1, h2, h3⟩
    refine ⟨h1, h2, fun e he => ?_⟩
    obtain ⟨T, hT, hT'⟩ := h3 e he
    exact ⟨T, hT, (isTransversal_iff _ _ T).1 hT'⟩
  · rintro ⟨h1, h2, h3⟩
    refine ⟨h1, h2, fun e he => ?_⟩
    obtain ⟨T, hT, hT'⟩ := h3 e he
    exact ⟨T, hT, (isTransversal_iff _ _ T).2 hT'⟩

theorem erdos_834_nine_bridge : type_of% Erdos834.erdos_834.variants.nine_vertices := by
  obtain ⟨H, hunif, hcrit, hmin⟩ := Erdos834Plby.erdos_834.1
  have hH := isThreeUniform_of_isUniform hunif
  refine ⟨ofFinset H hH, isChromaticThreeCritical_of H hH hcrit, fun v => ?_⟩
  rw [degree_ofFinset]
  exact_mod_cast (Erdos834Plby.minDegreeAtLeast_iff H 7).1 hmin v

theorem erdos_834_bridge : type_of% Erdos834.erdos_834 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨H, h⟩ := erdos_834_nine_bridge
  exact ⟨Fin 9, inferInstance, H, h⟩

theorem erdos_834_transversal_bridge : type_of% Erdos834.erdos_834.variants.transversal := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨V, hV, H, hcrit, hdeg⟩
  classical
  have hfin : H.edges.Finite := Set.toFinite _
  set Hf : Finset (Finset V) := hfin.toFinset with hHf
  have hcoe : (Hf : Set (Finset V)) = H.edges := hfin.coe_toFinset
  have hH : Finset.IsThreeUniform Hf := fun e he => H.uniform e (by rwa [← hcoe])
  have hEq : H = ofFinset Hf hH := ext' hcoe.symm
  rw [hEq] at hcrit hdeg
  obtain ⟨v, hv⟩ := Erdos834Plby.erdos_834.2 V Hf ((Erdos834Plby.isUniform_iff Hf 3).2 hH)
    ((isTransversalThreeCritical_iff Hf hH).1 hcrit)
  have := hdeg v
  rw [degree_ofFinset] at this
  have : (7 : ℕ∞) ≤ (Erdos834Plby.degree Hf v : ℕ) := this
  norm_cast at this
  omega

end Bridge834
```
</details>

- `lake --wfail build` passes for `834` and for the other users of `ThreeUniform.lean` (`593`, `775`).

### CODE REVIEW

File: FormalConjectures/ErdosProblems/834.lean [hunk 1]
```diff
@@ -0,0 +1,101 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/834.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/834.lean [hunk 2]
```diff
@@ -0,0 +1,101 @@
...
+
+variable {V : Type}
+
+/--
+`H` is *$3$-critical* in the chromatic sense: it has chromatic number `3`, but its chromatic
+number becomes `2` after deleting any edge or any vertex.
+-/
+def IsChromaticThreeCritical (H : ThreeUniformHypergraph V) : Prop :=
+  (∃ f : V → Fin 3, H.IsProperColoring f) ∧ ¬ H.IsTwoColorable ∧
+    (∀ e ∈ H.edges, (H.deleteEdge e).IsTwoColorable) ∧ ∀ v, (H.deleteVertex v).IsTwoColorable
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/834.lean:44]: might this be a good candidate for moving to `FormalConjecturesForMathlib` generalising `3` to `k`
